US07030128B2
6-Bromo-N-(tert-butyl)pyridin-2-ylamine (0.36 g, 1.56 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.6 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with isohexane on a gradient of ethyl acetate (20-80%) and trituration with isohexane gave N-(tert-butyl)-6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-ylamine (115 mg) as a pale yellow solid: δH (400 MHz, CDCl3) 1.56 (9H, s), 7.42 (1H, d, J 7), 7.45 (1H, d, J 8), 7.68 (1H, dd, J 8 and 8), 7.78 (1H, d, J 8), 8.53 (1H, s), 10.33 (1H, d, J 7).

reactant | 6-Bromo-N-(tert-butyl)pyridin-2-ylamine | 1.56 mmol, 0.36 g | BrC1=CC=CC(=N1)NC(C)(C)C | C9H13BrN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.6 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | N-(tert-butyl)-6-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)pyridin-2-ylamine | 115 mg | C(C)(C)(C)NC1=NC(=CC=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C16H16F3N5
